US07148226B2
Pent-4-ynethioic acid S-pyridin-2-yl ester
To a solution of 4-pentynoic acid (9.27 g, 94.5 mmol) dissolved in CH2Cl2 (125 mL) was added triphenylphosphine (32.2 g, 123 mmol) and 2,2′-dithiodipyridine (26 g, 118 mmol) and stirred at room temperature for 2 hours. The reaction was concentrated by rotary evaporation, and then chromatographed to yield the desired product (17.9 g, 99% yield).

reactant | 4-pentynoic acid | 94.5 mmol, 9.27 g | C(CCC#C)(=O)O | C5H6O2
reactant | triphenylphosphine | 123 mmol, 32.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2′-dithiodipyridine | 118 mmol, 26 g | N1=C(C=CC=C1)SSC1=NC=CC=C1 | C10H8N2S2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | Pent-4-ynethioic acid S-pyridin-2-yl ester | 17.9 g, 99% yield | N1=C(C=CC=C1)SC(CCC#C)=O | C10H9NOS
